US07371743B2
(g) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzamide
489 mg (1.61 mmol) 3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzoic acid chloride are placed together with 400 mg (3.96 mmol) TEA in 10 ml THF at ambient temperature and a solution of 433 mg (1.61 mmol) (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine is added dropwise with stirring. After 16 hours stirring at ambient temperature the mixture is evaporated down i. vac., the residue is combined with water and extracted with ethyl acetate. The combined organic phases are washed with sat. sodium chloride solution, dried over sodium sulphate and evaporated down i. vac. The residue is purified by chromatography on aluminium oxide (eluant: dichloromethane/methanol 100:1). The fractions evaporated down are treated with ethereal hydrochloric acid, after total concentration evaporated twice with ethyl acetate and diethyl ether and dried i. vac. at 70° C.

reactant | 3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzoic acid chloride | 1.61 mmol, 489 mg | CC=1C=C(C(=O)Cl)C=CC1N1CCN(CCC1)C | C14H19ClN2O
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | 1.61 mmol, 433 mg | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)N2CCN(CCC2)C)C)=O)C=C1 | C23H28ClN5O
